US07247625B2
To a stirred solution of 6-[(3-chloro-4-fluorophenyl)amino]-4-ethyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one (0.16 g, 0.39 mmol) in DMF (4 mL) was added potassium t-butoxide (0.05 g, 0.42 mmol) at room temperature. After 10 minutes, methyl iodide (0.05 mL, 0.80 mmol) was added. After 45 minutes, the reaction solution was quenched with ammonium chloride solution (sat) and extracted with ethyl acetate. The organic layer was washed several times with brine and dried over magnesium sulfate. The solvent was removed to give 6-[(3-chloro-4-fluorophenyl)amino]-4-ethyl-1-methyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one as a red solid (0.12 g, 73%). 1H NMR (DMSO-d6): δ 8.31 (s, 1H), 7.53 (m, 1H), 7.27 (t, J=9.1 Hz, 1H), 7.16 (d, J=8.7 Hz, 1H), 7.10 (d, J=8.6 Hz, 1H), 7.05 (m, 1H), 7.0 (m, 2H), 6.93 (m, 2H), 3.24 (s, 3H), 2.43 (m, 2H), 0.96 (t, J=5.9 Hz, 3H); MS (ESI) m/z 417/419 ([M+H]+); MS (ESI) m/z 415/417 ([M−H]−); Anal. calcd for C21H18ClFN2O2S: C, 60.50; H, 4.35; N, 6.72. Found: C, 60.22; H, 4.34; N, 6.63.

reactant | 6-[(3-chloro-4-fluorophenyl)amino]-4-ethyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.39 mmol, 0.16 g | ClC=1C=C(C=CC1F)NC=1C=CC2=C(C(OC(N2)=O)(C=2SC=CC2)CC)C1 | C20H16ClFN2O2S
reactant | potassium t-butoxide | 0.42 mmol, 0.05 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 0.80 mmol, 0.05 mL | CI | CH3I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 6-[(3-chloro-4-fluorophenyl)amino]-4-ethyl-1-methyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.12 g, 73% | ClC=1C=C(C=CC1F)NC=1C=CC2=C(C(OC(N2C)=O)(C=2SC=CC2)CC)C1 | C21H18ClFN2O2S
